US09056914B2
5.6. tert-Butyl 3-[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethylamino]-butanoate
Prepared as for Ex. 2, starting with tert-butyl 3-bromo-butyrate and N-[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethyl]-2-nitro-benzenesulfonamide:

reactant | tert-butyl 3-bromo-butyrate | BrC(CC(=O)OC(C)(C)C)C | C8H15BrO2
reactant | N-[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethyl]-2-nitro-benzenesulfonamide | OCC1=NC(=CC(=C1)OCCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CO | C15H17N3O7S
product | tert-Butyl 3-[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethylamino]-butanoate | OCC1=NC(=CC(=C1)OCCNC(CC(=O)OC(C)(C)C)C)CO | C17H28N2O5
